US04829090
To a 2 L Erlenmeyer flask was added 6-chrysenecarbaldehyde (21.2 g, 82.7 mmol), 2-amino-2-methyl-1,3-propanediol (Aldrich, 9.13 g, 86.8 mmol), p-toluenesulfonic acid.H2O (Eastman, 0.5 g, 2.5 mmol), and PhCH3 (500 mL). The mixture was warmed to reflux for a few minutes and H2O (2-3 mL) was driven off. The resulting golden colored solution was allowed to cool to RT, diluted with abs. EtOH (500 mL) and stirred overnight. NaBH3CN (Aldrich, 95%, 2.51 g, 42 mmol) was added to the reaction. After the NaBH3CN dissolved, an indicator (bromocresol green, Eastman, 5 mg) was added. To the resulting blue solution was added 5 drops of 1M ethanolic HCl every 15 min. After 3 days the indicator turned green then yellow and a voluminous white precipitate was present in the flask. To the flask was then added 1M ethanolic HCl (10 mL). The reaction was diluted to 4 L with abs. Et2O and stirred for 1 h. The precipitate was then filtered through a medium porosity glass fritted funnel and pressed dry. The filter cake was washed thoroughly with 20% HCl (5×250 mL), pressed dry and then washed with CH2Cl2 (4×500 mL), pressed and sucked dry. The solid was dissolved in abs. EtOH (1400 mL). 1M ethanolic HCl (1 mL) and 5 g of Calgon® (a trademark of Calgon Corporation, a subsidiary of Merck and Co., Pittsburgh, PA, 15230) brand of activated charcoal were added, and the mixture boiled and filtered through a pad of Celite® (a trademark of Johns Manville Co., P.O. Box 5108, Denver, CO, 80217) brand of filtered aid. The clear yellow solution was concentrated to 500 mL and diluted to 2 L with abs. Et2O which was then filtered to give the crude product. Further crystallization (2×) from CH3OH/Et2O (1:3) gave 18.07 g (57.2%) of 2-((6-chrysenylmethyl)amino)-2-methyl-1,3-propanediol hydrochloride mp 241°-243° (dec), (C, H, Cl, N).

reactant | 6-chrysenecarbaldehyde | 82.7 mmol, 21.2 g | C1=CC=CC=2C3=CC(=C4C=CC=CC4=C3C=CC12)C=O | C19H12O
reactant | 2-amino-2-methyl-1,3-propanediol | 86.8 mmol, 9.13 g | NC(CO)(CO)C | C4H11NO2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | NaBH3CN | 42 mmol, 2.51 g | [BH3-]C#N.[Na+]
reactant | bromocresol green | CC1=C(C=C(C(=C1Br)O)Br)C2(C=3C=CC=CC3S(=O)(=O)O2)C=4C=C(C(=C(C4C)Br)O)Br | C21H14Br4O5S
reactant | HCl | 1M, 10 mL | Cl | ClH
catalyst | HCl | 1M, 5 drops | Cl | ClH
solvent | Et2O | CCOCC | C4H10O
solvent | EtOH | 500 mL | CCO | C2H6O
solvent | H2O | 2-3 mL | O | H2O
solvent | PhCH3 | 500 mL | C1(=CC=CC=C1)C | C7H8
solvent | H2O | 2.5 mmol, 0.5 g | O | H2O
product | 2-((6-chrysenylmethyl)amino)-2-methyl-1,3-propanediol hydrochloride | 18.07 g, 57.2% | Cl.C1=CC=CC=2C3=CC(=C4C=CC=CC4=C3C=CC12)CNC(CO)(CO)C | InChI=1S/C23H23NO2.ClH/c1-23(14-25,15-26)24-13-17-12-22-18-7-3-2-6-16(18)10-11-21(22)20-9-5-4-8-19(17)20;/h2-12,24-26H,13-15H2,1H3;1H
